US04251454
A mixture of 8.6 g. of sodium methylate, 12.4 g. of β-anilinopropionitrile and 20.4 g. of 3,5-bis(methylamino)-α-[(methylsulfonyl)methyl]benzyl alcohol in 100 ml. of absolute dimethylsulfoxide was stirred for 1 hour at 50° C. and then treated with 1 liter of water. The precipitated product was extracted with 3 liters of ethyl acetate. The ethyl acetate extract was washed with 1 liter of water, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on 1 kg. of silica gel with methylene chloride/ethyl acetate (3:1), there being obtained α-(anilinomethylene)-3,5-bis(methylamino)hydrocinnamonitrile as a brownish-colored oil.

reactant | sodium methylate | C[O-].[Na+]
reactant | β-anilinopropionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
reactant | 3,5-bis(methylamino)-α-[(methylsulfonyl)methyl]benzyl alcohol | CNC=1C=C(C(CS(=O)(=O)C)O)C=C(C1)NC | C11H18N2O3S
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | 1 liter | O | H2O
product | α-(anilinomethylene)-3,5-bis(methylamino)hydrocinnamonitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=CC(=CC(=C1)NC)NC | C18H20N4
